US07358268B2
To a solution of 2-(2-methoxy-ethoxy)-ethanol (2.35 mL) in dry THF (25 mL) was added 870 mg of NaH (60% in mineral oil) portion wise at 0° C. The mixture was stirred for 30 min at RT and cooled again to 0° C. Tetra-n-butylammonium iodide (10 mg) was added followed by dropwise addition of a solution of bromoacetonitrile (1.33 mL) in dry THF (10 mL). The mixture was stirred for 3 h at RT, concentrated, taken up in saturated aqueous NH4Cl solution and extracted with DCM. The organic phases were dried over anhydrous MgSO4 and concentrated in vacuo to give crude [2-(2-methoxy-ethoxy)-ethoxy]-acetonitrile (2.60 g) as a brown oil. The product, still containing some mineral oil, was used directly in the next step.

reactant | 2-(2-methoxy-ethoxy)-ethanol | 2.35 mL | COCCOCCO | C5H12O3
reactant | NaH | 870 mg | [H-].[Na+]
reactant | bromoacetonitrile | 1.33 mL | BrCC#N | C2H2BrN
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Tetra-n-butylammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [2-(2-methoxy-ethoxy)-ethoxy]-acetonitrile | 2.60 g | COCCOCCOCC#N | C7H13NO3
